US09193692B2
I. 7-(2-Amino-4-methyl-1H-benzo[d]imidazol-6-yl)-1-((tetrahydro-2H-pyran-4-yl)methyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one
Cyanogen bromide (0.059 g, 0.556 mmol) in N,N-dimethylformamide (0.5 mL) was added to a stirred solution of 7-(3,4-diamino-5-methylphenyl)-1-((tetrahydro-2H-pyran-4-yl)methyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one (0.195 g, 0.529 mmol) in N,N-dimethylformamide (3 mL) at 0° C. The resulting dark brown mixture was capped and stirred at room temperature for 16 h. The resulting mixture was diluted with methanol, filtered and purified using reverse-phase preparatory HPLC (5-50% acetonitrile+0.1% TFA in water+0.1% TFA, over 30 min). Fractions containing the desired product were combined and most of the solvent removed under reduced pressure. The residue was loaded onto a Strata X—C ion exchange column from Phenomenex. The column was washed successively with water, acetonitrile, methanol and 5% ammonium hydroxide in methanol. The product eluted with the 5% ammonium hydroxide in methanol eluent and was concentrated under reduced pressure and dried under high vacuum at 50° C. to give the desired product (0.130 g, 0.331 mmol, 62% yield) as an orange solid. 1H NMR (400 MHz, D2O and DMSO-d6) δ (ppm) 8.13 (s, 1H), 7.56 (s, 1H), 7.36 (s, 1H), 4.18 (s, 2H), 4.03 (d, J=6.64 Hz, 2H), 3.84-3.90 (m, 2H), 3.24 (t, J=11.32 Hz, 2H), 2.40 (s, 3H), 2.04-2.19 (m, 1H), 1.59 (d, J=12.10 Hz, 2H), 1.25-1.41 (m, 2H); MS (ESI) m/z 394.2 [M+1]+.

reactant | Cyanogen bromide | 0.556 mmol, 0.059 g | N#CBr | CBrN
reactant | 7-(3,4-diamino-5-methylphenyl)-1-((tetrahydro-2H-pyran-4-yl)methyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | 0.529 mmol, 0.195 g | NC=1C=C(C=C(C1N)C)C1=CN=C2C(=N1)N(C(CN2)=O)CC2CCOCC2 | C19H24N6O2
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
product | 7-(2-Amino-4-methyl-1H-benzo[d]imidazol-6-yl)-1-((tetrahydro-2H-pyran-4-yl)methyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | 0.331 mmol, 0.130 g, 62% yield | NC1=NC2=C(N1)C=C(C=C2C)C2=CN=C1C(=N2)N(C(CN1)=O)CC1CCOCC1 | C20H23N7O2
